US08492555B2
To a solution of 310 mg of rac-(1R*,2R*,4R*)-N-[3-(4,7-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-2-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-N-methyl-acetamide in 8 mL toluene were added dropwise 0.77 mL of a Red-Al solution (65% in toluene) at 0° C. After stirring for 10 min at 0° C., the cooling bath was removed and stirring was continued for 3 h at rt. The reaction mixture was then carefully poured onto a mixture of 1M NaOH/ice and stirred for 10 min. The aq. phase was extracted with toluene, the combined organic phases were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification by CC using EtOAc-MeOH (2:1) yielded 230 mg of rac-(1R*,2R*,4R*)-2-(2-{[3-(4,7-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol as white foam.

reactant | rac-(1R*,2R*,4R*)-N-[3-(4,7-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-2-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-N-methyl-acetamide | 310 mg | COC1=CC=C(C=2NC(=NC21)CCCN(C(CC2(C1C=C(C(C2)CC1)C1=CC=CC=C1)O)=O)C)OC | C29H35N3O4
reactant | Red-Al | 0.77 mL | COCCO[AlH2-]OCCOC.[Na+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | rac-(1R*,2R*,4R*)-2-(2-{[3-(4,7-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | 230 mg | COC1=CC=C(C=2NC(=NC21)CCCN(CCC2(C1C=C(C(C2)CC1)C1=CC=CC=C1)O)C)OC | C29H37N3O3
